US07790709B2
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl}acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-(6-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d]pyrimidin-3-yl)acetic acid for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting 1-methylpiperazine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (173 mg, 43%) was prepared as a off-white solid: 1H NMR (300 MHz, DMSO-d6) □ 10.78 (br s, 1H), 10.07-10.03 (m, 1H), 8.41-8.37 (m, 1H), 7.98-7.90 (m, 1H), 7.57-7.39 (m, 3H), 7.25-6.99 (m, 3H), 6.42-6.17 (m, 1H), 5.04-4.85 (m, 2H), 4.46-4.03 (m, 5H), 3.72-3.68 (m, 3H), 3.44-3.41 (m, 3H), 3.11-2.91 (m, 7H), 2.78 (s, 3H); MS (ESI) m/e 516 (M+H)+.

reactant | (E)-(6-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d]pyrimidin-3-yl)acetic acid | CN(C(=O)/C=C/C1=CC2=C(NC(N(C2)CC(=O)O)=O)N=C1)CC=1N(C2=CC=CC=C2C1)C | C23H23N5O4
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl}acrylamide hydrochloride | 173 mg, 43% | Cl.CN(C(\C=C\C1=CC2=C(NC(N(C2)CC(=O)N2CCN(CC2)C)=O)N=C1)=O)CC=1N(C2=CC=CC=C2C1)C | InChI=1S/C28H33N7O3.ClH/c1-31-10-12-34(13-11-31)26(37)19-35-17-22-14-20(16-29-27(22)30-28(35)38)8-9-25(36)32(2)18-23-15-21-6-4-5-7-24(21)33(23)3;/h4-9,14-16H,10-13,17-19H2,1-3H3,(H,29,30,38);1H/b9-8+;
